US07544685B2
Methyl (S)-(2,3-Dihydro-1H-indol-3-yl)acetate
(+)-(S)-(1-tert-Butoxycarbonyl-2,3-dihydro-1H-indol-3-yl)acetic acid (14.2 g, 0.05 mol) was dissolved in methanol (600 mL), cooled (5° C.) and a saturated solution of HCl in diethyl ether (150 mL) was added. The resulting mixture was stirred at room temperature for 16 h, concentrated in vacuo to about 50 mL and poured onto an ice/water mixture. The aqueous phase was extracted with ethyl acetate and diethyl ether, and the combined organic phases were washed with aqueous ammonia and brine. The organic phase was dried and concentrated in vacuo to give the title compound (9.8 g, 100%).

reactant | (+)-(S)-(1-tert-Butoxycarbonyl-2,3-dihydro-1H-indol-3-yl)acetic acid | 0.05 mol, 14.2 g | C(C)(C)(C)OC(=O)N1C[C@H](C2=CC=CC=C12)CC(=O)O | C15H19NO4
reactant | HCl | Cl | ClH
reactant | methanol | 600 mL | CO | CH4O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | Methyl (S)-(2,3-Dihydro-1H-indol-3-yl)acetate | 9.8 g, 100% | N1C[C@H](C2=CC=CC=C12)CC(=O)OC | C11H13NO2
